US04704459
In 10 ml of anhydrous acetonitrile was suspended 1.05 g of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate, and 450 mg of triethylamine and 1.22 g of diphenylphosphoryl azide were added thereto with ice-cooling, after which the resulting mixture was subjected to reaction at room temperature for 4 hours. To this reaction mixture were added 50 ml of ethyl acetate and 50 ml of water, and the organic layer was separated, and then dried over anhydrous magnesium sulfate. The solvent was removed by ditillation under reduced pressure, and the residue thus obtained was purified by a column chromoatography [Wako Silica Gel C-200, eluant: benzene] to obtain 550 mg (yield 48.9%) of ethyl 2-[6-azido-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate having a melting point of 130°-131° C.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate | 1.05 g | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)O)F | C16H13F3N2O4
reactant | triethylamine | 450 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.22 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | ethyl 2-[6-azido-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 550 mg, yield 48.9% | N(=[N+]=[N-])C1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C16H12F3N5O3
